US07989460B2
A mixture of benzyl 1-piperazinecarboxylate (4.1 ml), chloromethyl acetone (1.8 ml) and potassium carbonate (8.8 g) in acetonitrile (40 ml) was stirred overnight at ambient temperature. The reaction mixture was diluted in diethyl ether and the solution was partitioned between diethyl ether and water. The water phase was extracted with diethyl ether, the organic phases were combined and washed with water, brine, dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography using dichloromethane/methanol saturated with ammonia (3.5 M) (98/2). Evaporation of the solvent gave benzyl 4-(acetylmethyl)-1-piperazinecarboxylate (3.7 g, 63%) as a yellow oil.

reactant | benzyl 1-piperazinecarboxylate | 4.1 ml | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | chloromethyl acetone | 1.8 ml | ClCCC(C)=O | C4H7ClO
reactant | potassium carbonate | 8.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | benzyl 4-(acetylmethyl)-1-piperazinecarboxylate | 3.7 g, 63% | C(C)(=O)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H20N2O3
